US04502882
N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2,2-dimethyl-1,3-benzodioxole-4-sulfonamide
To a solution of 1.0 g 2,2-dimethyl-1,3-benzodioxole-4-sulfonamide, prepared in Example 1, in 50 ml methylene chloride a room temperature under nitrogen was added 2.5 ml trimethylaluminum (2M in toluene). After stirring 15 minutes at room temperature, 0.7 g of methyl [4-methoxy-6-methyl-1,3,5-triazin-2-yl]carbamate, prepared according to the procedure of Example 5, was added and the reaction mixture was heated at reflux 72 hours. The reaction mixture was cooled to room temperature and 75 ml ice, 3 ml glacial acetic acid, and 10 drops of hydrochloric acid were sequentially added. The organic phase was separated, dried and the solvent removed under reduced pressure to give an oil. Crystallization of the oil from a mixture of ether, methylene chloride, and hexane gave 0.1 g of white solid, m.p. 160°-168° C. The infrared spectrum showed a carbonyl absorption at 1705 cm-1 indicative of the title compound.

reactant | 2,2-dimethyl-1,3-benzodioxole-4-sulfonamide | 1.0 g | CC1(OC2=C(O1)C=CC=C2S(=O)(=O)N)C | C9H11NO4S
reactant | trimethylaluminum | 2M, 2.5 ml | C[Al](C)C
reactant | methyl [4-methoxy-6-methyl-1,3,5-triazin-2-yl]carbamate | 0.7 g | COC1=NC(=NC(=N1)C)NC(OC)=O | C7H10N4O3
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | hydrochloric acid | 10 drops | Cl | ClH
product | N-[(4-Methoxy-6-methyl-1,3,5-triazin-2-yl)aminocarbonyl]-2,2-dimethyl-1,3-benzodioxole-4-sulfonamide | 0.1 g | COC1=NC(=NC(=N1)C)NC(=O)NS(=O)(=O)C1=CC=CC=2OC(OC21)(C)C | C15H17N5O6S
